US07544697B2
5-(4-Chlorobutyl)-1-ethyl-1H-pyrazole-3-carbonitrile (10.8 g, 51.0 mmol) was treated with potassium acetate (10.0 g, 102 mmol) and bromine (2.9 mL, 56 mmol) in acetic acid (102 mL), and the reaction was stirred overnight at ambient temperature. The acetic acid was removed under reduced pressure, and the residue was partitioned between water and chloroform. The mixture was adjusted to pH 10 with the addition of 2 N aqueous sodium carbonate. The aqueous layer was extracted with chloroform, and the combined organic layers were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The resulting yellow oil was purified by chromatography on a HORIZON HPFC system (eluting with hexanes/ethyl acetate in a gradient from 95:5 to 50:50) to provide 4-bromo-5-(4-chlorobutyl)-1-ethyl-1H-pyrazole-3-carbonitrile.

reactant | 5-(4-Chlorobutyl)-1-ethyl-1H-pyrazole-3-carbonitrile | 51.0 mmol, 10.8 g | ClCCCCC1=CC(=NN1CC)C#N | C10H14ClN3
reactant | potassium acetate | 102 mmol, 10.0 g | C(C)(=O)[O-].[K+]
reactant | bromine | 56 mmol, 2.9 mL | BrBr | Br2
solvent | acetic acid | 102 mL | C(C)(=O)O | C2H4O2
product | 4-bromo-5-(4-chlorobutyl)-1-ethyl-1H-pyrazole-3-carbonitrile | BrC=1C(=NN(C1CCCCCl)CC)C#N | C10H13BrClN3
